US04447441
A solution of 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]propanethiol hydrogen maleate (147 mg.) and sodium methoxide (70 mg.) in MeOH was treated with 2-iodoacetamide (123 mg.) and the solution stirred at room temperature for 24 hours and then evaporated to dryness. The residue was partitioned between water and EtOAc, and the EtOAc phase was dried and evaporated to dryness. The residue was purified by preparative tlc on silica gel using EtOAc/MeOH/concentrated aqueous ammonia (s.g. 0.880) 6:1:0.5 v/v/v as developing solvent to give 2-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-ylthio)propylthio]acetamide as a gum (50 mg.) which was crystallised as the hydrogen maleate salt (m.p. 168°-170°) from EtOAc.

reactant | 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]propanethiol hydrogen maleate | 147 mg | C(\C=C/C(=O)O)(=O)O.FC(CN=C(NC1=NC(=NC=C1)SCCCS)N)(F)F
reactant | sodium methoxide | 70 mg | C[O-].[Na+]
reactant | 2-iodoacetamide | 123 mg | ICC(=O)N | C2H4INO
solvent | MeOH | CO | CH4O
product | 2-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-ylthio)propylthio]acetamide | FC(CN=C(NC1=NC(=NC=C1)SCCCSCC(=O)N)N)(F)F | C12H17F3N6OS2
